US07700599B2
N-[4-(Hydroxymethyl)-3-methylphenyl]acetamide (D77)
4-(Acetylamino)-2-methylbenzoic acid (2 g, 10.4 mmol) was suspended in THF (50 mL) and borane-THF complex (1M in THF, 26 mL, 26 mmol) added drop-wise over ˜15 minutes. The reaction mixture was stirred under argon at room temperature overnight then quenched with water (52 mL) and extracted with ethyl acetate (×3). The combined organics were dried and concentrated to give the crude product which was purified by column chromatography. Elution with 0-100% ethyl acetate/petroleum ether yielded the title compound as a cream solid (0.379 g). δH (MeOD, 400 MHz) 7.36 (2H, m), 7.25 (1H, d), 4.57 (2H, s), 2.31 (3H, s), 2.10 (3H, s). MS (ES): MH+ 180.2.

reactant | 4-(Acetylamino)-2-methylbenzoic acid | 10.4 mmol, 2 g | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1)C | C10H11NO3
reactant | borane THF | 26 mmol, 1M, 26 mL | B.C1CCOC1
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-[4-(Hydroxymethyl)-3-methylphenyl]acetamide | 0.379 g | OCC1=C(C=C(C=C1)NC(C)=O)C | C10H13NO2
